US09108938B2
To a solution of 5-bromopyrimidine-2-carbonitrile (221 mg, 1.2 mmol) in THF (10 ml) was added methylmagnesium bromide (3.0 ml, 4.20 mmol, 1.4 molar, THF) at −78° C. under nitrogen. The solution was stirred at −78° C. for 3.5 hours, and then quenched with satd aq NH4Cl, and extracted with EtOAc. The combined organic layer was dried over anhydrous Na2SO4 and concentrated. The reaction was purified by column chromatography on silica gel (petroleum ether: EtOAc=1:0 to 0:1) to afford 1-(5-bromopyrimidin-2-yl)ethanone (1.55 mg, 61% yield). 1H NMR (CDCl3 500 MHz): δ 9.00 (s, 2H), 2.80 (s, 3H).

reactant | 5-bromopyrimidine-2-carbonitrile | 1.2 mmol, 221 mg | BrC=1C=NC(=NC1)C#N | C5H2BrN3
reactant | methylmagnesium bromide | 4.20 mmol, 1.4 molar, 3.0 ml | C[Mg]Br
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(5-bromopyrimidin-2-yl)ethanone | 1.55 mg, 61% yield | BrC=1C=NC(=NC1)C(C)=O | C6H5BrN2O
